US05654316
N-(4-Chlorophenyl)-N-methyl-Beta-phenyl-4-(phenylmethyl)-1-piperazinepentanamide
N-(4-Chlorophenyl)-beta-(2-methanesulfonyloxyethyl)-N-methyl-benzenepropanamide (0.93 g) in DMF (10 mL) was treated with N-phenylmethylpiperazine (1.03 g) and the mixture heated at 80° C. for 2 hours. The cooled reaction mixture was diluted the EtOAc (50 mL) and water (50 mL) and the aqueous phase removed. The aqueous layer was extracted with EtOAc (2×50 mL) and the combined organic extracts, washed with water (50 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give an oil. Silica gel chromatography eluting with 10% MeOH:CH2Cl2 gave the title compound (0.5 g). Mass spectrum (FAB): 476.3.

reactant | N-(4-Chlorophenyl)-beta-(2-methanesulfonyloxyethyl)-N-methyl-benzenepropanamide | 0.93 g | ClC1=CC=C(C=C1)N(C(CC(C1=CC=CC=C1)CCOS(=O)(=O)C)=O)C | C19H22ClNO4S
reactant | N-phenylmethylpiperazine | 1.03 g | C1(=CC=CC=C1)CN1CCNCC1 | C11H16N2
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
reactant | water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorophenyl)-N-methyl-Beta-phenyl-4-(phenylmethyl)-1-piperazinepentanamide | 0.5 g | ClC1=CC=C(C=C1)N(C(CC(CCN1CCN(CC1)CC1=CC=CC=C1)C1=CC=CC=C1)=O)C | C29H34ClN3O
